** sch_path: /foss/designs/CHIP-PLL/schematics/charge_pump/charge_pump_cell.sch
**.subckt charge_pump_cell vp UP vout DN rst gd
*.iopin UP
*.iopin DN
*.iopin gd
*.iopin vp
*.opin vout
*.iopin rst
XM12 net1 net6 vp vp sg13_lv_pmos w=1u l=0.6u ng=1 m=1 mm_ok=1
XM3 net8 net15 vp vp sg13_lv_pmos w=1.6u l=0.6u ng=1 m=1 mm_ok=1
XM2 net5 net15 vp vp sg13_lv_pmos w=1.65u l=0.6u ng=1 m=1 mm_ok=1
XM7 net3 bias net5 vp sg13_lv_pmos w=1.6u l=0.6u ng=1 m=1 mm_ok=1
XM11 net9 UP vp vp sg13_lv_pmos w=1u l=0.6u ng=1 m=1 mm_ok=1
XM4 net9 UP gd gd sg13_lv_nmos w=1u l=0.6u ng=1 m=1 mm_ok=1
XM5 vout net9 net3 vp sg13_lv_pmos w=1u l=0.6u ng=1 m=1 mm_ok=1
XM13 vout DN net13 gd sg13_lv_nmos w=1u l=0.6u ng=1 m=1 mm_ok=1
XM14 net15 bias net8 vp sg13_lv_pmos w=1.6u l=0.6u ng=1 m=1 mm_ok=1
XM1 net15 bias net10 gd sg13_lv_nmos w=1.6u l=0.6u ng=1 m=1 mm_ok=1
XM17 net1 bias net2 gd sg13_lv_nmos w=4.8u l=0.6u ng=1 m=1 mm_ok=1
XM9 net2 net1 gd gd sg13_lv_nmos w=4.8u l=0.6u ng=1 m=1 mm_ok=1
XM10 net10 bias net7 gd sg13_lv_nmos w=1.6u l=0.6u ng=1 m=1 mm_ok=1
XM6 net7 net1 gd gd sg13_lv_nmos w=1.6u l=0.6u ng=1 m=1 mm_ok=1
XM8 net4 net1 gd gd sg13_lv_nmos w=1.6u l=0.6u ng=1 m=1 mm_ok=1
XM15 net13 bias net4 gd sg13_lv_nmos w=1.6u l=0.6u ng=1 m=1 mm_ok=1
x1 vp gd bias vbias
x2 vp net6 gd curr_source
XM16 vtest vtest vp vp sg13_lv_pmos w=1.8u l=1.8u ng=1 m=1 mm_ok=1
XM18 vtest vtest 0 0 sg13_lv_nmos w=0.6u l=1.8u ng=1 m=1 mm_ok=1
XM19 vout rst vtest vp sg13_lv_pmos w=1.8u l=0.6u ng=1 m=1 mm_ok=1
**.ends

* expanding   symbol:  vbias.sym # of pins=3
** sym_path: /foss/designs/CHIP-PLL/schematics/charge_pump/vbias.sym
** sch_path: /foss/designs/CHIP-PLL/schematics/charge_pump/vbias.sch
.subckt vbias vp gd vbias
*.opin vbias
*.iopin gd
*.iopin vp
XM5 net1 iref vp vp sg13_lv_pmos w=1.2u l=0.6u ng=1 m=1 mm_ok=1
XM6 vbias net1 net2 gd sg13_lv_nmos w=3.6u l=0.6u ng=1 m=1 mm_ok=1
XM2 net2 net2 gd gd sg13_lv_nmos w=1.2u l=0.6u ng=1 m=1 mm_ok=1
XM3 gd gd gd gd sg13_lv_nmos w=1.86u l=0.6u ng=1 m=1 mm_ok=1
XM7 vp vp vp vp sg13_lv_pmos w=1.375u l=0.6u ng=1 m=1 mm_ok=1
XR1 net1 vbias gd rppd w=1e-6 l=1.7e-6 m=1 b=0 mm_ok=1
x1 vp iref gd curr_source
.ends


* expanding   symbol:  curr_source.sym # of pins=3
** sym_path: /foss/designs/CHIP-PLL/schematics/charge_pump/curr_source.sym
** sch_path: /foss/designs/CHIP-PLL/schematics/charge_pump/curr_source.sch
.subckt curr_source vp iref gd
*.iopin vp
*.iopin gd
*.opin iref
XM9 net3 net3 gd gd sg13_lv_nmos w=1u l=0.6u ng=1 m=1 mm_ok=1
XM4 iref iref vp vp sg13_lv_pmos w=1.4u l=0.6u ng=1 m=1 mm_ok=1
XM5 net2 iref vp vp sg13_lv_pmos w=1.2u l=0.6u ng=1 m=1 mm_ok=1
XM10 iref net2 net1 gd sg13_lv_nmos w=1.2u l=0.6u ng=1 m=1 mm_ok=1
XM1 net2 net2 gd gd sg13_lv_nmos w=1.4u l=0.6u ng=1 m=1 mm_ok=1
XM3 vp vp net3 gd sg13_lv_nmos w=1u l=0.6u ng=1 m=1 mm_ok=1
XM6 vp net3 iref gd sg13_lv_nmos w=1u l=0.6u ng=1 m=1 mm_ok=1
XM2 gd gd gd gd sg13_lv_nmos w=0.4u l=0.6u ng=1 m=1 mm_ok=1
XR2 net1 gd gd rppd w=1e-6 l=1.7e-6 m=1 b=0 mm_ok=1
.ends

.end
